US07084164B2
1-(Biphenyl-4-carbonyl)-4-(2-fluorophenyl)thiosemicarbazide (12.1 g) was suspended in aqueous 2 mol/liter sodium hydroxide solution (300 ml), and refluxed under heating for 3 hours. After the reaction solution was cooled to ambient temperature, the solution was neutralized under ice cooling with conc. hydrochloric acid. The precipitate was filtered and washed with water, to afford 5-biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole-3-thiol as pale yellow solid (11.2 g, 97%). The physico-chemical values are as follows.

reactant | 1-(Biphenyl-4-carbonyl)-4-(2-fluorophenyl)thiosemicarbazide | 12.1 g | C1(=CC=C(C=C1)C(=O)NNC(=S)NC1=C(C=CC=C1)F)C1=CC=CC=C1 | C20H16FN3OS
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2 mol/liter, 300 ml | [OH-].[Na+]
product | 5-biphenyl-4-yl-4-(2-fluorophenyl)-4H-1,2,4-triazole-3-thiol | 11.2 g, 97% | C1(=CC=C(C=C1)C=1N(C(=NN1)S)C1=C(C=CC=C1)F)C1=CC=CC=C1 | C20H14FN3S
